US07700641B2
Synthesis of 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1.22, and making non-critical variations using 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one to replace 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 71% yield as a colorless solid: 1H NMR (300 MHz, DMSO-d6) δ 10.79 (s, 1H), 7.19-7.08 (m, 2H), 6.90 (dd, 1H), 6.58 (s, 1H), 6.25 (s, 1H), 5.90 (d, 2H), 4.74 (ABq, 2H); 13C NMR (75 MHz, DMSO-d6) δ 178.5, 157.0, 148.8, 144.5, 141.9, 131.2, 130.6, 126.1, 119.2, 117.5, 109.8, 103.3, 101.8, 93.3, 77.6, 59.7; MS (ES−) m/z 360.4 (M−1), 358.4 (M−1).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)(CO)C1=CC2=C(OCO2)C=C1O | C16H12BrNO5
reactant | 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=C2C(C(N(C2=C(C=C1)Cl)CCCCC)=O)(CO)C1=CC2=C(OCO2)C=C1O | C21H21Cl2NO5
product | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 71% yield | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
